US09102631B2
5,6,7,8-Tetrahydroquinazoline-2,4(1H,3H)-dione
A mixture of ethyl 2-oxocyclohexanecarboxylate (66 g, 0.39 mol) and urea (68 g, 1.1 mol) was heated at 175-185° C. and stirred for 4-5 h. After cooled to 70° C., adjusted pH=13-14 by NaOH (a.q.), and then the mixture was stirred at 70° C. for 2 h. After cooled to r.t, the mixture was adjusted pH=6-7 by AcOH, and then extracted with DCM for several times. The combined organic layer was dried and evaporated to give the title compound (25 g, 39% yield) as brown solid which was set to do next step without any purification. MS: m/z 167.3 [M+H]+.

reactant | ethyl 2-oxocyclohexanecarboxylate | 0.39 mol, 66 g | O=C1C(CCCC1)C(=O)OCC | C9H14O3
reactant | urea | 1.1 mol, 68 g | NC(=O)N | CH4N2O
reactant | NaOH | [OH-].[Na+]
solvent | AcOH | CC(=O)O | C2H4O2
product | 5,6,7,8-Tetrahydroquinazoline-2,4(1H,3H)-dione | 25 g, 39% yield | N1C(NC(C=2CCCCC12)=O)=O | C8H10N2O2
